US06645968B2
Benzyl (1S)-2-amino-1-(tert-butoxymethyl)-2-oxoethylcarbamate
A stirred solution of racemic (2S)-2-(((benzyloxy)carbonyl)amino)-3-tert-butoxypropanoic acid (1.01 g, 3.43 mmol) in THF (10 mL) at −15° C. was treated with isobutyl chloroformate (0.440 mL, 3.43 mmol) followed by N-methylmorpholine (0.380 mL, 3.43 mmol). After 15 minutes, the milky white reaction mixture was treated dropwise with ammonium hydroxide (2.8 mL of 30% reagent, 5.0 mmol). The reaction flask was warmed to −15° C. and stirred for 45 minutes. The clear homogeneous mixture was treated with brine (20 mL) and extracted with ethyl acetate (2×40 mL). The organic portions were combined and washed with saturated aqueous NaHCO3 solution (15 mL) and brine (15 mL), and dried (MgSO4). Filtration and removal of solvent provided 928 mg of the desired product a white solid.

reactant | racemic (2S)-2-(((benzyloxy)carbonyl)amino)-3-tert-butoxypropanoic acid | 3.43 mmol, 1.01 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)COC(C)(C)C | C15H21NO5
reactant | isobutyl chloroformate | 3.43 mmol, 0.440 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 3.43 mmol, 0.380 mL | CN1CCOCC1 | C5H11NO
reactant | ammonium hydroxide | 5.0 mmol, 2.8 mL | [OH-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | brine | 20 mL | [Cl-].[Na+].O
product | Benzyl (1S)-2-amino-1-(tert-butoxymethyl)-2-oxoethylcarbamate | 928 mg | NC([C@H](COC(C)(C)C)NC(OCC1=CC=CC=C1)=O)=O | C15H22N2O4
